US09428502B2
Compound 305.1. N,N,4-Trimethyl-1H-pyrazole-1-sulfonamide
Into a 500-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 4-methyl-1H-pyrazole (10.4 g, 127.2 mmol) in CH2Cl2 (200 mL). N,N-dimethylsulfamoyl chloride (17.14 mL, 167.1 mmol) and triethylamine (35 mL, 251.1 mmol) were added to the reaction. The reaction mixture was stirred for 30 min at 0° C. in a water/ice bath and then stirred overnight at room temperature. The reaction was quenched with NaHCO3 (sat.) (40 mL) and the aqueous phase was extracted with 3×200 mL of EtOAc. The combined organic phase was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography with ethyl acetate/hexanes (1:6) as the eluent to afford the title compound (22.2 g, 92%) as a light yellow oil.

reactant | 4-methyl-1H-pyrazole | 127.2 mmol, 10.4 g | CC=1C=NNC1 | C4H6N2
reactant | N,N-dimethylsulfamoyl chloride | 167.1 mmol, 17.14 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | triethylamine | 251.1 mmol, 35 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | N,N,4-Trimethyl-1H-pyrazole-1-sulfonamide | 22.2 g, 92% | CN(S(=O)(=O)N1N=CC(=C1)C)C | C6H11N3O2S
